US04267174
1-(4-Methylbenzoyl)-2-cyanoaziridine.
This compound is obtained in the form of an oil in a yield of 1.8 g. from 1.54 g. p-methylbenzoyl chloride and 0.68 g. 2-cyanoaziridine. It still contains a little ethyl acetate and water. The analytical results (elementary analysis, NMR and mass spectra) confirm the structure.

reactant | p-methylbenzoyl chloride | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | 2-cyanoaziridine | C(#N)C1NC1 | C3H4N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-(4-Methylbenzoyl)-2-cyanoaziridine | CC1=CC=C(C(=O)N2C(C2)C#N)C=C1 | C11H10N2O
